US06787539B2
To a solution of 1.60 g (4.43 mmol) methyl-(2-methylsulfanyl-4-o-tolyloxy-pyrimidin-5-yl)-carbamic acid tert.-butyl ester in 20 ml CH2Cl2 2 ml trifluoracetic acid was added and the reaction mixture stirred for 2 hrs. at 40°. The reaction mixture was poured into ice-water and the pH of the solution adjusted to 10 with 1N NaOH solution. The aqueous phase was extracted three times with 80 ml CH2Cl2. The combined organic layers were dried (Na2SO4), filtered and evaporated to give 1.10 g (95%) methyl-(2-methylsulfanyl-4-o-tolyloxy-pyrimidin-5-yl)-amine as a white solid, MS (EI): 261 (M+).

reactant | methyl-(2-methylsulfanyl-4-o-tolyloxy-pyrimidin-5-yl)-carbamic acid tert.-butyl ester | 4.43 mmol, 1.60 g | C(C)(C)(C)OC(N(C=1C(=NC(=NC1)SC)OC1=C(C=CC=C1)C)C)=O | C18H23N3O3S
reactant | NaOH | 1N | [OH-].[Na+]
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | methyl-(2-methylsulfanyl-4-o-tolyloxy-pyrimidin-5-yl)-amine | 1.10 g, 95% | CNC=1C(=NC(=NC1)SC)OC1=C(C=CC=C1)C | C13H15N3OS
